US06214997B1
Preparation of (Z)-2-(2-tert-Butoxycarbonylprop-2-oxyimino)-2-(triphenylmethylaminothiazol-4-yl) acetic acid (IV) (diblocked acid)
To a suspension of (Z)-2-(2-aminothiazol-4-yl)-2-(2-tert-butoxycarbonylprop-2-oxyimino) acetic acid (monoblocked acid) (100 g) prepared as in Example 1 in methylene chloride (1.74 lt) is added triethylamine (33.76 g) slowly at 5-10° to obtain a clear solution. Add triphenylchloromethane (118.5 g) at 5-10° and then mass temperature is raised to 36-38°. The resulting reaction mixture is stirred for 6 hours. It is then cooled to 20-25° and washed with DM water. The organic layer is concentrated and toluene is added to the residue. The resulting slurry is cooled to 20-25° C., the product is filtered, washed with toluene and dried under reduced pressure at 40-45° C. Yield 171 g (98.5% of theory), water <0.2% w/w, assay 96-97% w/w, methylene chloride 2-2.5% w/w and toluene 1-2% w/w.

reactant | (Z)-2-(2-aminothiazol-4-yl)-2-(2-tert-butoxycarbonylprop-2-oxyimino) acetic acid | 100 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)(C)C(=O)OC(C)(C)C | C13H19N3O5S
reactant | triethylamine | 33.76 g | C(C)N(CC)CC | C6H15N
reactant | triphenylchloromethane | 118.5 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (Z)-2-(2-tert-Butoxycarbonylprop-2-oxyimino)-2-(triphenylmethylaminothiazol-4-yl) acetic acid | C(C)(C)(C)OC(=O)C(C)(C)O\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H33N3O5S
